US07320993B1
d) 2-[8,8-bis-(4-fluorophenyl)-octyl]-isoindol-1,3-dione
9.0 g (23.6 mmol) 8,8-bis-(4-fluorophenyl)-octyl bromide and 4.7 g (25.0 mmol) phthalide potassium salt are stirred in 80 ml DMF for two hours at 70° C. After cooling, the mixture is concentrated and extracted with acetic acid ethyl ester and NaCl solution by shaking. The organic phase is dried over sodium sulfate and the solvent is removed under vacuum. The residue is chromatographically purified over silica gel with petroleum ether/acetic acid ethyl ester (60/1 to 30/1): Yield 8.1 g (77%).

reactant | 8,8-bis-(4-fluorophenyl)-octyl bromide | 23.6 mmol, 9.0 g | FC1=CC=C(C=C1)C(CCCCCCCBr)C1=CC=C(C=C1)F | C20H23BrF2
reactant | phthalide potassium salt | 25.0 mmol, 4.7 g | [K].C1(=O)OCC2=CC=CC=C12
reactant | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 2-[8,8-bis-(4-fluorophenyl)-octyl]-isoindol-1,3-dione | FC1=CC=C(C=C1)C(CCCCCCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)F | C28H27F2NO2
